US06177440B1
A solution of the 9-[(2,6-dichlorophenyl)methyl]-4-hydroxy-5-carbomethoxy carbazole (240 mg, 0.6 mM) in 5 mL THF and 20 mL concentrated aqueous ammonium hydroxide was stirred at room temperature for 22 hours. The resultant precipitate was collected by filtration and dried in vacuo to afford 151 mg (65%) of the 9-[(2,6-dichlorophenyl)methyl]-4-hydroxy-5-carbamoyl carbazole as a yellow solid. 1H NMR (DMSO-d6) δ 10.35 (s, 1H), 8.8 (br s, 1H), 8.4 (br s, 1H), 7.7 (d, 1H, J=8 Hz), 7.6-7.3 (m, 5H), 7.25 (t, 1H, J=8 Hz), 6.85 (d, 1H, J=8 Hz), 6.55 (d, 1H, J=8 Hz), and 5.85 (s, 2H). IR (KBr, cm−1) 3429, 1631, and 1597. MS (ES) m/e 385, 387.

reactant | 9-[(2,6-dichlorophenyl)methyl]-4-hydroxy-5-carbomethoxy carbazole | 0.6 mM, 240 mg | ClC1=C(C(=CC=C1)Cl)CN1C2=CC=CC(=C2C=2C(=CC=CC12)O)C(=O)OC | C21H15Cl2NO3
reactant | ammonium hydroxide | 20 mL | [OH-].[NH4+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 9-[(2,6-dichlorophenyl)methyl]-4-hydroxy-5-carbamoyl carbazole | 151 mg, 65% | ClC1=C(C(=CC=C1)Cl)CN1C2=CC=CC(=C2C=2C(=CC=CC12)O)C(N)=O | C20H14Cl2N2O2
